US05538966
Step A: N-[[3-(1,3-dioxolan-2-yl)-2-thienyl]sulfonyl]-N-methyl-glycine Ethyl Ester
To a solution of thiophene-3-carboxaldehyde ethylene acetal (5.82 g, 37.3 mmol) in anhydrous THF (50 mL) at -70° C. was added 2.5M n-butyllithium (16.4 mL, 41 mmol) over 10 min. The solution was stirred at -50° C. for 10 min, cooled to -70° C. for 30 min and sulfur dioxide was passed over the reaction mixture for 5 min. The mixture was allowed to warm to ambient temperature, the volatiles were evaporated and methylene chloride (200 mL) was added. The suspension was cooled (ice bath) and N-chlorosuccinimide (6.47 g, 48.5 mmol) was added. This mixture was stirred at ambient temperature for 2 h, filtered and the filter pad was washed with ethyl acetate (200 mL). The combined filtrates were added to a solution of sarcosine ethyl ester hydrochloride (15.0 g, 97.6 mmol) in saturated aqueous sodium bicarbonate (100 mL) and the mixture stirred for 4 h at ambient temperature. After the organic layer was separated, the aqueous layer was extracted with ethyl acetate (2×100 mL), the combined extracts were dried (MgSO4) and evaporated to dryness. Purification by column chromatography (silica, 30 to 50% ethyl acetate/hexane) gave an oil (8.95 g, 72%).

reactant | thiophene-3-carboxaldehyde ethylene acetal | 37.3 mmol, 5.82 g | C1COC(C2=CSC=C2)O1 | C7H8O2S
reactant | n-butyllithium | 41 mmol, 2.5M, 16.4 mL | C(CCC)[Li]
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | N-chlorosuccinimide | 48.5 mmol, 6.47 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | sarcosine ethyl ester hydrochloride | 97.6 mmol, 15.0 g | Cl.C(C)OC(CNC)=O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
product | N-[[3-(1,3-dioxolan-2-yl)-2-thienyl]sulfonyl]-N-methyl-glycine Ethyl Ester | 8.95 g, 72% | C(C)OC(CN(C)S(=O)(=O)C=1SC=CC1C1OCCO1)=O | C12H17NO6S2
